US07884109B2
tert-Butyl 4-fluoro-2-(4-(trans-4-hydroxycyclohexylamino)-5-nitropyrimidin-2-ylamino)phenylcarbamate.
Potassium carbonate (105 mg) was added to a stirred mixture of tert-butyl 4-fluoro-2-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)phenyl-carbamate (101 mg) in acetonitrile (5 ml) followed by the addition of trans-4-hydroxycyclohexylamine (44 mg). The reaction mixture was stirred for 16 hours, then diluted with DCM and washed with water and brine. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo to provide 110 mg of the title compound.

reactant | Potassium carbonate | 105 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-fluoro-2-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)phenyl-carbamate | 101 mg | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)NC1=NC=C(C(=N1)SC#N)[N+](=O)[O-] | C16H15FN6O4S
reactant | trans-4-hydroxycyclohexylamine | 44 mg | O[C@@H]1CC[C@H](CC1)N | C6H13NO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-fluoro-2-(4-(trans-4-hydroxycyclohexylamino)-5-nitropyrimidin-2-ylamino)phenylcarbamate | 110 mg | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)NC1=NC=C(C(=N1)N[C@@H]1CC[C@H](CC1)O)[N+](=O)[O-] | C21H27FN6O5
